US04088657
N-acetyl phenylglycine
Procedure is as in Example 1, but with 195 g (2 moles) of 76% glyoxylic acid, 560 ml of concentrated sulfuric acid, 82 g (2 moles) of acetonitrile and 760 g (10 moles) of benzene and a duration of only 6 hr. 15 min.

reactant | glyoxylic acid | 2 moles, 195 g | C(C=O)(=O)O | C2H2O3
reactant | acetonitrile | 2 moles, 82 g | C(C)#N | C2H3N
reactant | benzene | 10 moles, 760 g | C1=CC=CC=C1 | C6H6
reactant | sulfuric acid | 560 ml | S(O)(O)(=O)=O | H2O4S
product | N-acetyl phenylglycine | C(C)(=O)N(CC(=O)O)C1=CC=CC=C1 | C10H11NO3
